* Frozen netlist snapshot for record 20260801-073426-a7fd16a
* source     : sim/amp-psrr/testbench/tb_psrr.spice
* sha256     : 2c7d7a4e40f13fd1f4b5e5aa744766b882f434b9e15c5c1f379bca4ad2584752
* This is a verbatim copy taken at record time. Do not edit.
* amp-psrr -- supply-rejection (PSRR) verification
*
* Issue #10 created this bench; issue #42 re-ran it against the
* telescopic-cascode amp that closes #10's recorded PSRR shortfall.
*
* Netlist FRAGMENT for sim/harness (sim/README.md format). The harness
* supplies .include of the gf180mcu models, the corner .lib sections,
* .temp, the .control block and .end. Parameters available: vdd_val,
* vdd_nom, temp_c.
*
* Content below is design/netlist/bandgap_core.spice and
* design/netlist/bandgap_startup.spice, stripped of xschem comment lines
* and re-wrapped as .subckt/.ends, followed by this experiment's own
* stimulus. bandgap_amp is NOT defined here: it comes from the DUT netlist
* the manifest names (sim/dut/bandgap_amp.spice, generated from
* design/netlist/bandgap_amp.spice), which is what lets this same bench be
* re-run unedited against #10's amp with
*   --dut sim/dut/frozen/bandgap_amp-20260801-issue10.spice
* The record's Netlist provenance field then names the exact amp measured,
* by path and sha256 -- see sim/dut/README.md.
*
* TESTBENCH CHANGED IN #42 -- NOT BYTE-COMPARABLE WITH #10's RECORDS.
* #10 minted its records against a pre-#11 copy of bandgap_core (7 pins,
* no `casc` port) with NO bandgap_startup instance, seeding the intended
* operating point with .ic. Two things forced a change here:
*   1. `.ic` is not honoured by ngspice's .op/.ac DC solve (only by
*      transient), so #10's seed was doing nothing at all -- the DC solver
*      simply happened to land on the intended solution for that amp. It
*      does not for every amp, and a testbench whose result depends on
*      which of two physical DC solutions the solver picks is not evidence.
*   2. bandgap_top now instantiates bandgap_startup (#11) and the 8-pin
*      core, so the #10 fragment no longer described the shipping block.
* Instantiating bandgap_startup removes the degenerate solution physically
* (the kick devices hold `fb`/`casc` down until `ibias` is real), so the
* operating point this bench linearises around is the one the block
* actually has. The `.nodeset` below is a solver hint only; the answer no
* longer depends on it.
*
* For a like-for-like comparison, the paired record in this experiment's
* records/ directory was minted from this same testbench with
* --dut sim/dut/frozen/bandgap_amp-20260801-issue10.spice, i.e. #10's 5T
* OTA measured on #42's bench.
*
* METHOD (unchanged from #10): the supply source carries a unit AC
* stimulus (`ac 1`) on top of its DC operating point, so a small-signal AC
* sweep gives the closed-loop transfer function H(f) = Vref(f) / Vdd(f)
* directly -- no loop break, no injection-point ambiguity (unlike the
* loop-gain probe in sim/amp-loop-stability/, PSRR is a genuinely
* single-port measurement: how much of a supply perturbation reaches the
* output, with the servo loop closed exactly as it operates in real use).
* PSRR(f) = -20*log10(|H(f)|), i.e. how many dB the loop attenuates a
* supply ripple before it reaches vref.
*
* Frequency range 0.01 Hz - 1 kHz brackets the ratified spec row
* (README.md "PSRR | > 60 dB DC-1 kHz") from below (0.01 Hz stands in for
* "DC": at that frequency every device capacitance in this design is many
* decades into its high-impedance region) through the full ratified band.
* The worst (minimum) PSRR over the whole swept band is reported, which is
* >= the requirement for every ratified sub-band within it.
*

.subckt bandgap_core vdd sns1 sns2 vss fb vref ibias casc


XM1 d1 fb vdd vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC1 sns1 casc d1 vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XQ1 vss vss sns1 pnp_05p00x05p00 m=1
XM2 d2 fb vdd vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC2 sns2 casc d2 vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR2 e2 sns2 vss ppolyf_u r_width=2u r_length=18u m=1
XQ2 vss vss e2 pnp_10p00x10p00 m=1
XM3 d3 fb vdd vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC3 vref casc d3 vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR1 e3 vref vss ppolyf_u r_width=2u r_length=280u m=1
XQ3 vss vss e3 pnp_05p00x05p00 m=1
XM4 d4 fb vdd vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC4 ibias casc d4 vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 ibias ibias vss vss nfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCB casc casc vdd vdd pfet_03v3 L=12u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNB casc ibias vss vss nfet_03v3 L=2u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

.subckt bandgap_startup vdd vss fb casc ibias


XMSENSE det ibias vss vss nfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRPU det vdd vss ppolyf_u_1k r_width=2u r_length=4000u m=1
XMKFB fb det vss vss nfet_03v3 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMKCASC casc det vss vss nfet_03v3 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

vsup vdd 0 dc {vdd_val} ac 1
Xcore vdd sns1 sns2 0 fb vref ibias casc bandgap_core
Xamp sns2 sns1 0 fb vdd ibias bandgap_amp
Xstart vdd 0 fb casc ibias bandgap_startup

.nodeset v(fb)=2.27 v(sns1)=0.72 v(sns2)=0.72 v(vref)=1.23 v(ibias)=0.75
+ v(casc)=1.75

* ---------------------------------------------------------------
* DUT netlist included by this testbench (frozen schematic)
* source     : sim/dut/frozen/bandgap_amp-20260801-issue10.spice
* sha256     : 2722d5867653166135f5a6562366ec19c33e80bbda09de4d16f2c9792ad9e05b
* ---------------------------------------------------------------

* FROZEN DUT netlist -- pinned copy, do not edit or regenerate in place.
*
* Pins the ERROR AMPLIFIER as issue #10 left it: the 5-transistor
* single-stage OTA (NMOS pair W=100u nf=2 / L=4u, uncascoded PMOS mirror
* load W=40u / L=4u, NMOS tail), whose recorded PSRR and untrimmed-accuracy
* shortfalls are what issue #42 exists to close
* (design/bandgap_error_budget.md Sec 5, as #10 wrote it).
*
* Why it exists: #42 rewrote the three amp-* testbenches (current 8-pin
* bandgap_core, bandgap_startup instantiated, .nodeset instead of a .ic
* that ngspice's DC solve ignores), so #10's own records are no longer
* byte-comparable with #42's. Passing
*   --dut sim/dut/frozen/bandgap_amp-20260801-issue10.spice
* re-runs the NEW testbench against the OLD amp, which is what makes the
* before/after deltas quoted in design/bandgap_error_budget.md evidence
* rather than assertion. Superseding a frozen file means adding a new one,
* never editing this one.
*
* Content below is sim/tools/mk_dut.py's conversion of
* design/netlist/bandgap_amp.spice at commit da3a572 (the last commit
* before #42); only this header differs.
*

** sch_path: /Users/rwalters/GitHub/gf180-bandgap/.loom/worktrees/issue-10/design/bandgap_amp.sch
.subckt bandgap_amp in_p in_n vss out vdd tail_bias

*.iopin vdd
*.iopin vss
*.iopin in_p
*.iopin in_n
*.iopin out
*.iopin tail_bias
XM1 nd1 in_p tail vss nfet_03v3 L=4u W=100u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 out in_n tail vss nfet_03v3 L=4u W=100u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 nd1 nd1 vdd vdd pfet_03v3 L=4u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 out nd1 vdd vdd pfet_03v3 L=4u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 tail tail_bias vss vss nfet_03v3 L=4u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends
